US09340541B2
Direct Preparation of Polymorph Form A of 8-chloro-N-[(2-chloro-5-methoxyphenyl)-sulfonyl]-6-(trifluoromethyl)-imidazo[1,2-a]pyridine-2-carboxamide
To a stirred slurry of 8-chloro-6-(trifluoromethyl)imidazo[1,2,a]pyridine-2-carboxylic acid ethyl ester (see PCT Patent Publication WO 2010/129500 for preparation) (8 g, 27.3 mmol) and 2-chloro-5-methoxybenzenesulfonamide (see PCT Patent Publication WO 2010/129500 for preparation) (6.4 g, 28.7 mmol, 1.05 equiv) in 1,2-dichloroethane (41 mL) at 22° C. under nitrogen was added diethylaluminum chloride (4 mL, 31.9 mmol, 1.18 equiv) over approximately 5 minutes. The addition of diethylaluminum chloride was accompanied by about 23° C. temperature rise and moderate foaming. After complete addition of diethylaluminum chloride the temperature of the reaction mixture was adjusted to 75° C. The reaction mixture was held with efficient stirring for about 1.5 h at 75° C. during which it became an off-white slurry. After about 1.5 h, HPLC analysis indicated <1 area % of 8-chloro-6-(trifluoromethyl)imidazo[1,2,a]pyridine-2-carboxylic acid ethyl ester remaining. Aqueous 10% acetic acid (41 mL, 68.3 mmol, 2.5 equiv) was then added resulting in some frothing and the reaction mass transformed to a thick slurry and then to a clear biphasic solution. The reaction mass was then cooled down to 45° C. and the two phases separated. The organic phase was then transferred to a jacketed-reactor together with additional 1,2-dichloroethane (20 mL) that was used to dissolve some precipitated solids. The organic phase was heated to distill 1,2-dichloroethane under atmospheric pressure. After collection of about 30 ml of the distillate, acetic acid (17 mL) was added to the jacketed-reactor and distillation continued. When the reactor's temperature reached 102° C., water (64 mL) was added to it and distillation continued. After collection of another 30 mL of distillate, water (about 40 mL) was added to the reactor, the distillation was ended and the batch brought down to room temperature. The batch was then warmed to 75° C. and held stirring for about 5.5 h. The batch was then cooled to room temperature and then filtered. The filter cake was washed with water (20 ml). The solid product was split into two portions, the larger portion was dried in a vacuum oven at 80° C. for 16 hours and the smaller portion was air-dried for 16 hours to give the title compound (9.98 g and 1.48 g respectively) in 89.6% combined yield and with purity=96.7 a % (by HPLC). Both the air-dried and the vacuum-dried product conformed with polymorph Form A. The polymorph Form A was characterized by its powder X-ray diffraction pattern (See Characterization Example 2).

reactant | 8-chloro-6-(trifluoromethyl)imidazo[1,2,a]pyridine-2-carboxylic acid ethyl ester | 27.3 mmol, 8 g | C(C)OC(=O)C=1N=C2N(C=C(C=C2Cl)C(F)(F)F)C1 | C11H8ClF3N2O2
reactant | 2-chloro-5-methoxybenzenesulfonamide | 28.7 mmol, 6.4 g, 1.05 equiv | ClC1=C(C=C(C=C1)OC)S(=O)(=O)N | C7H8ClNO3S
reactant | diethylaluminum chloride | 31.9 mmol, 4 mL, 1.18 equiv | [Cl-].C(C)[Al+]CC
reactant | acetic acid | 68.3 mmol, 41 mL, 2.5 equiv | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 41 mL | ClCCCl | C2H4Cl2
product | 8-chloro-N-[(2-chloro-5-methoxyphenyl)-sulfonyl]-6-(trifluoromethyl)-imidazo[1,2-a]pyridine-2-carboxamide | ClC=1C=2N(C=C(C1)C(F)(F)F)C=C(N2)C(=O)NS(=O)(=O)C2=C(C=CC(=C2)OC)Cl | C16H10Cl2F3N3O4S
